US06365736B1
2-Methyl-3-oxo-6-[2-(3-chlorobenzylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine
915 mg (4.437 mmol) of 2-methyl-3-oxo-6-(2-amino-ethyl)-3,4-dihydro-2H-1,4-benzoxazine is dissolved in 16 ml of a methanol/tetrahydrofuran mixture (4:1). After adding 623.7 mg (4.437 mmol) of 3-chlorobenzaldehyde, the batch is stirred for two hours at room temperature. Then, 91.1 mg (2.408 mmol) of sodium borohydride is added in portions and stirred for another two hours at room temperature. The batch is added to 50 ml of water, and after three-fold extraction with ethyl acetate, the combined organic extracts are washed with brine, dried and the solvent is spun off. The remaining residue is chromatographed on silica gel (mobile solvent: ethyl acetate/methanol). Yield 584.6 mg (39.8%).

reactant | 2-methyl-3-oxo-6-(2-amino-ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 4.437 mmol, 915 mg | CC1OC2=C(NC1=O)C=C(C=C2)CCN | C11H14N2O2
reactant | 3-chlorobenzaldehyde | 4.437 mmol, 623.7 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | sodium borohydride | 2.408 mmol, 91.1 mg | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol tetrahydrofuran | 16 ml | CO.O1CCCC1
product | 2-Methyl-3-oxo-6-[2-(3-chlorobenzylamino)-ethyl]-3,4-dihydro-2H-1,4-benzoxazine | CC1OC2=C(NC1=O)C=C(C=C2)CCNCC2=CC(=CC=C2)Cl | C18H19ClN2O2
